US07291631B2
To a solution of N-ethylaniline (23 μL, 0.18 mmol) in toluene (3 mL) was added DIPEA (63 μL, 0.36 mmol) and phosgene (99 μL, 2.2M in toluene, 0.22 mmol). The mixture was stirred for 2 hours at room temperature under N2 and then the solvent was removed under reduced pressure to give a white solid. A solution of (5-aminomethyl-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol (0.075 g, 0.18 mmol) and DIPEA (63 μL, 0.36 mmol) in DMF (4 mL) was added to the white residue and the resulting mixture was stirred for 16 hours. The solvent was removed under reduced pressure and the resulting residue was suspended in CH2Cl2 (30 mL) and quenched with saturated aqueous NaHCO3 (30 mL). The mixture was extracted with CH2Cl2 (3×30 mL) and the combined organic extracts were washed with brine (3×20 mL) and then dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 93:5:2, v/v/v) afforded 3-(4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-1-ethyl-1-phenyl-urea as a white foamy solid (0.080 g, 78%). 1H NMR (CDCl3) δ 1.10 (t, 3H, J=9.0 Hz), 1.60 (m, 1H), 1.99 (m, 1H), 2.19 (m, 2H), 2.20 (s 3H), 2.24 (s, 3H), 2.64 (m, 1H), 2.78 (m, 1H), 3.63 (d, 2H, J=12.0 Hz), 3.70-3.79 (m, 3H), 3.86 (t, 1H, J=7.5 Hz), 4.11 (m, 2H), 4.31 (d+m, 2H), 4.42 (m, 1H), 7.05 (m, 2H), 7.14-7.38 (m, 9H), 8.15 (s, 1H), 8.37 (d, 1H, J=3.0 Hz). HPLC: 99%.

reactant | N-ethylaniline | 0.18 mmol, 23 μL | C(C)NC1=CC=CC=C1 | C8H11N
reactant | DIPEA | 0.36 mmol, 63 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | phosgene | 0.22 mmol, 2.2M, 99 μL | C(=O)(Cl)Cl | CCl2O
reactant | (5-aminomethyl-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol | 0.18 mmol, 0.075 g | NCC=1C=CC(=C(C1)CO)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C | C26H32N4O
reactant | DIPEA | 0.36 mmol, 63 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-1-ethyl-1-phenyl-urea | 0.080 g, 78% | CC=1C(=NC=C(C1)C)CN(C1CCCC=2C=CC=NC12)CC1=C(C=C(CNC(N(C2=CC=CC=C2)CC)=O)C=C1)CO | C35H41N5O2
